US07829580B2
(b) (E)-3-{[1-(Ethoxycarbonylmethyl)pyrrol-2yl]methylidene]-1-(triphenylmethyl)piperidin-4-one
To a solution of (E)-3-[(pyrrol-2-yl)methylidene]-1-(triphenylmethyl)piperidin-4-one (7.16 g) and ethyl bromoacetate (8.60 g) in N,N-dimethylformamide (80 ml) were added potassium carbonate (7.10 g) and potassium iodide (8.50 g) with stirring at room temperature, and the resulting mixture was stirred at 80° C. for 4 hours. After filtration, the reaction mixture was diluted with dichloromethane, subsequently washed with saturated aqueous sodium chloride solution, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was removed in vacuo, and the residue was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate, hexane, and dichloromethane (1:2:1) as the eluent to afford the title compound (7.13 g, yield: 83%) as a yellow amorphous solid.

reactant | (E)-3-[(pyrrol-2-yl)methylidene]-1-(triphenylmethyl)piperidin-4-one | 7.16 g | N1C(=CC=C1)\C=C\1/CN(CCC1=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H26N2O
reactant | ethyl bromoacetate | 8.60 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 7.10 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 8.50 g | [I-].[K+]
solvent | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | (E)-3-{[1-(Ethoxycarbonylmethyl)pyrrol-2yl]methylidene]-1-(triphenylmethyl)piperidin-4-one | 7.13 g, yield: 83% | C(C)OC(=O)CN1C(=CC=C1)\C=C\1/CN(CCC1=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H32N2O3
